US07560546B2
Step B: Ethyl 5-bromo-1-(phenylsulfonyl)-3-(piperazin-1-ylsulfonyl)-1H-indole-2-carboxylate hydrochloride
Through a solution of ethyl 5-bromo-3-{[4-(tert-butoxycarbonyl)-piperazin-1-yl]sulfonyl}-1-(phenylsulfonyl)-1H-indole-2-carboxylate (44 mg, 0.067 mmol) in 5 mL of ethyl acetate at 0° C. was bubbled HCl gas for 2 minutes. After stirring an additional 30 minutes, the reaction was concentrated in vacuo to provide the titled product as a white solid. ESI+MS: 556.0 [M+H]+.

reactant | ethyl 5-bromo-3-{[4-(tert-butoxycarbonyl)-piperazin-1-yl]sulfonyl}-1-(phenylsulfonyl)-1H-indole-2-carboxylate | 0.067 mmol, 44 mg | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C26H30BrN3O8S2
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-bromo-1-(phenylsulfonyl)-3-(piperazin-1-ylsulfonyl)-1H-indole-2-carboxylate hydrochloride | Cl.BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)N1CCNCC1 | InChI=1S/C21H22BrN3O6S2.ClH/c1-2-31-21(26)19-20(33(29,30)24-12-10-23-11-13-24)17-14-15(22)8-9-18(17)25(19)32(27,28)16-6-4-3-5-7-16;/h3-9,14,23H,2,10-13H2,1H3;1H
